US07276606B2
Cyclobutyl-[6-(1H-indol-3-yl)-6H-phenanthridin-5-yl]-methanone was prepared from phenanthridine, cyclobutanecarboxylic acid chloride, and indole according to GP 2. Yield, 11%. 1H-NMR (DMSO-d6): δ=1.48-1.62 (m, 1H), 1.65-2.02 (m, 3H), 2.15-2.41 (m, 2H), 3.49-3.66 (m, 1H), 6.07 (s, br., 1H), 6.92-7.07 (m, 3H), 7.16 (t, J≈7.5 Hz, 1H), 7.19-7.30 (m, 3H), 7.35-7.42 (m, 1H), 7.43-7.52 (m, 2H), 7.68 (d, J=6.7 Hz, 1H), 7.92 (d, J=7.4 Hz, 1H), 8.01 (d, J=7.3 Hz, 1H), 10.62 (s, 1H); (+)-ESI-MS: m/z=379 [M+H]+, 262 [M-indole+H]+, 180.

reactant | phenanthridine | C1=CC=CC2=NC=C3C=CC=CC3=C12 | C13H9N
reactant | cyclobutanecarboxylic acid chloride | C1(CCC1)C(=O)Cl | C5H7ClO
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
product | Cyclobutyl-[6-(1H-indol-3-yl)-6H-phenanthridin-5-yl]-methanone | C1(CCC1)C(=O)N1C=2C=CC=CC2C2=CC=CC=C2C1C1=CNC2=CC=CC=C12 | C26H22N2O
